US07462631B2
A) 3-Chloro-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-acrylaldehyde
7 ml of POCl3 are added dropwise to a solution of 6.6 ml of DMF in 4 ml of dichloroethane, cooled to −5° C., under nitrogen, and then the temperature is allowed to rise and 7 g of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)ethanone are added. The reaction medium is heated at 50° C. for 16 hours and then the mixture is poured into 100 ml of ice-cold water. The medium is extracted with DCM and then the organic phase is washed with a saturated NaHCO3 solution, water, and then an NaCl solution. 1.45 g of the expected compound are obtained, which compound crystallizes from isopropyl ether, m.p.=128° C.

reactant | POCl3 | 7 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 6.6 ml | CN(C)C=O | C3H7NO
reactant | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)ethanone | 7 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3O
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
product | 3-Chloro-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-acrylaldehyde | 1.45 g | ClC(=C(C=O)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C15H8Cl4O
